US06127386
185b. 5-Allyl-6-chloro-3-(2-(R)-pyrrolidinylmethoxy)pyridine dihydrochloride
To a solution of 5-allyl-3-(1-BOC-2-(R)-pyrrolidinylmethoxy)6-chloropyridine in Et2O was added hydrogen chloride (4.0 M in 1,4-dioxane) carefully to afford the tittle compound: mp 90-92° C.; 1H NMR (D2O) δ 1.92 (m, 1H), 2.02-2.20 (m, 2H), 2.27 (m, 1H), 3.40 (t, 2H, J=7.0 Hz), 3.49 (d, 2H, J=6.5 Hz), 4.11 (m, 1H), 4.21 (dd, 1H, J=7.5, 10.5 Hz), 4.43 (dd, 1H, J=3.5, 10.5 Hz), 5.10 (dd, 1H, J=1.5, 17.0 Hz), 5.18 (dd, 1H, J=2.0, 10.0 Hz), 6.03 (m, 1H), 7.44 (d, 1H, J=3.0 Hz), 7.98 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 253 (M+H)+. Anal. Calcd for C13H17ClN2O.2 HCl.0.8 H2O: C, 45.91; H, 6.11; N, 8.24. Found: C, 45.90; H, 6.36; N, 8.20. [α]25D -11.2 (c 1.4, MeOH).

reactant | 5-allyl-3-(1-BOC-2-(R)-pyrrolidinylmethoxy)6-chloropyridine | C(C=C)C=1C=C(C=NC1Cl)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C18H25ClN2O3
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | H2O | O | H2O
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-Allyl-6-chloro-3-(2-(R)-pyrrolidinylmethoxy)pyridine dihydrochloride | Cl.Cl.C(C=C)C=1C=C(C=NC1Cl)OC[C@@H]1NCCC1 | InChI=1S/C13H17ClN2O.2ClH/c1-2-4-10-7-12(8-16-13(10)14)17-9-11-5-3-6-15-11;;/h2,7-8,11,15H,1,3-6,9H2;2*1H/t11-;;/m1../s1
